US05352701
1.3g of 3-[5-(6-methoxycarbonyl-2-pyridylcarbonyl)-2-methoxyphenyl]-propionic acid methyl ester is refluxed in 12 ml of 62% hydrobromic acid for 12 hours. The reaction mixture is poured on ice/water, the precipitate is suctioned off and dried. The crude product (1.2g) is refluxed in 11 ml of methanol with 3 drops of concentrated sulfuric acid and concentrated by evaporation. The residue is taken up in ethyl acetate, shaken out with 10% sodium bicarbonate solution, washed with saturated common salt solution, dried on sodium sulfate and concentrated by evaporation. The residue is chromatographed on silica gel with hexane/ethyl acetate (0-40%). 640 mg of 3-[5-(6-methoxycarbonyl-2-pyridylcarbonyl)-2-hydroxyphenyl]-proPionic acid methyl ester of melting point 121°-122° C. is obtained.

reactant | 3-[5-(6-methoxycarbonyl-2-pyridylcarbonyl)-2-methoxyphenyl]-propionic acid methyl ester | 1.3g | COC(CCC1=C(C=CC(=C1)C(=O)C1=NC(=CC=C1)C(=O)OC)OC)=O | C19H19NO6
solvent | hydrobromic acid | 12 ml | Br | BrH
product | 3-[5-(6-methoxycarbonyl-2-pyridylcarbonyl)-2-hydroxyphenyl]-proPionic acid methyl ester | 640 mg | COC(CCC1=C(C=CC(=C1)C(=O)C1=NC(=CC=C1)C(=O)OC)O)=O | C18H17NO6
